US08124641B2
(4-Amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (XIII)
To a solution of (4-hydroxyimino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (132 mg, 0.59 mmol), sodium cyanoborohydride (110 mg, 1.76 mmol), and ammonium acetate (0.5 g, 7.2 mmol) in methanol (10 mL) was added titanium (III) chloride (0.99 mL, 20% wt in water, 1.68 mmol) dropwise. The reaction mixture was stirred at room temperature for 2 hours under an argon atmosphere. To the above mixture were added water (10 mL) and a solution of concentrated ammonia and saturated ammonium chloride (10 mL, 1:5, v/v). The resulting mixture was filtered through a pad of Celite® (a diatomite filter from World Minerals Inc.) and washed with dichloromethane (30 mL). The separated aqueous layer was extracted with dichloromethane (20 mL×3). The combined organic layers were washed with brine (30 mL), dried over sodium sulfate and concentrated in vacuo to afford 4-amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (131 mg, 99%) as a viscous light brown oil. 1H NMR (400 MHz, CD3OD) δ ppm 7.76 (s, 1 H), 5.34 (s, 2 H), 4.60 (m, 2 H), 4.34 (m, 2 H), 2.70 (m, 2 H), 2.20 (m, 1 H), 1.98 (m, 3 H), 1.32 (t, J=7.2 Hz, 3 H). MS calcd. for C11H17N3O2 223, obsd. (ESI+) [(M+H)+] 224.

reactant | (4-hydroxyimino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 0.59 mmol, 132 mg | C(C)OC(CN1N=CC=2C(CCCC12)=NO)=O | C11H15N3O3
reactant | sodium cyanoborohydride | 1.76 mmol, 110 mg | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 7.2 mmol, 0.5 g | C(C)(=O)[O-].[NH4+]
reactant | ammonia | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | titanium (III) chloride | 1.68 mmol, 0.99 mL | [Cl-].[Ti+3].[Cl-].[Cl-]
solvent | water | 10 mL | O | H2O
product | (4-Amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC=2C(CCCC12)N)=O | C11H17N3O2
